US07056935B2
Synthesis of 1-(1,2-dioxo-3,3-dimethylpentyl)-2-piperidinecarboxylic acid
A mixture of ethyl 1-(1,2-dioxo-3,3-dimethylpentyl)-2-piperidinecarboxylate (0.69 g; 2.43 mmol), 1 N LiOH (5 mL), and methanol (20 mL) was stirred at 0° C. for 30 min and at room temperature overnight. The mixture was acidified to pH 1 with 1 N HCl, diluted with water, and extracted into 50 mL of methylene chloride. The organic extract was washed with brine and concentrated to deliver 0.61 g (98%) of snow-white solid which did not require further purification.

reactant | ethyl 1-(1,2-dioxo-3,3-dimethylpentyl)-2-piperidinecarboxylate | 2.43 mmol, 0.69 g | O=C(C(C(CC)(C)C)=O)N1C(CCCC1)C(=O)OCC | C15H25NO4
reactant | LiOH | 1 N, 5 mL | [Li+].[OH-]
reactant | methanol | 20 mL | CO | CH4O
reactant | HCl | 1 N | Cl | ClH
solvent | water | O | H2O
product | 1-(1,2-dioxo-3,3-dimethylpentyl)-2-piperidinecarboxylic acid | O=C(C(C(CC)(C)C)=O)N1C(CCCC1)C(=O)O | C13H21NO4
